US08486953B2
Preparation of tert-butyl 4-(2-amino-5-fluorophenoxy)piperidine-1-carboxylate
Ammonium formate (1.2 g, 19.1 mmol) was added into a suspension of tert-butyl 4-(5-fluoro-2-nitrophenoxy)piperidine-1-carboxylate (2.0 g, 5.8 mmol) and palladium on carbon (5%, 0.4 g) in MeOH (30 mL) at ambient temperature. The solution was stirred for 0.5 hours, filtered through Celite and washed with MeOH. The filtrate was concentrated in vacuo and triturated from diethyl ether to remove the ammonium formate by-products. The sample was purified by flash column chromatography (1:10→1:1 EtOAc/DCM) to yield a colourless oil which crystallised from diethyl ether/petroleum ether (40-60° C.) as a colourless solid (1.6 g, 87%).

reactant | Ammonium formate | 19.1 mmol, 1.2 g | C(=O)[O-].[NH4+]
reactant | tert-butyl 4-(5-fluoro-2-nitrophenoxy)piperidine-1-carboxylate | 5.8 mmol, 2.0 g | FC=1C=CC(=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C1)[N+](=O)[O-] | C16H21FN2O5
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
solvent | MeOH | 30 mL | CO | CH4O
product | tert-butyl 4-(2-amino-5-fluorophenoxy)piperidine-1-carboxylate | NC1=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C(C=C1)F | C16H23FN2O3
